US05360811
2-(1-Dodecynyl)-4-thiophenecarboxaldehyde
A solution of 2-bromo-4-thiophenecarboxaldehyde (45.3 g), 1-dodecyne (43.4 g), and triethylamine (99 ml), in dry tetrahydrofuran (250 ml) was chilled to 5° C. and degassed under nitrogen. bis(Triphenylphosphine)palladium(II)chloride (1.66 g) and copper(I)iodide (0.23 g) were added to the reaction mixture. The mixture was degassed and stirred overnight, under nitrogen, as it was allowed to warm to room temperature. The precipitate was filtered off, washed with ethyl acetate, and the filtrate was evaporated. Ethyl acetate was added to the residue. The solution was washed with brine, dried over magnesium sulfate, filtered, and the filtrate was concentrated. The residue was chromatographed through a silica gel pad eluting with heptane/1% ethyl acetate. The appropriate fractions were collected and evaporated. The residue and that from a similar reaction on a 0.05 mole scale were combined and distilled to give 30.7 g (79.5%), bp 181°-185° C. @0.35 mm Hg.

reactant | 2-bromo-4-thiophenecarboxaldehyde | 45.3 g | BrC=1SC=C(C1)C=O | C5H3BrOS
reactant | 1-dodecyne | 43.4 g | C#CCCCCCCCCCC | C12H22
reactant | triethylamine | 99 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2-(1-Dodecynyl)-4-thiophenecarboxaldehyde | C(#CCCCCCCCCCC)C=1SC=C(C1)C=O | C17H24OS
